US05387585
4. 2.3 g of 9-fluoro-1,2,4-triazolo[1,5-c]quinazoline in 40 ml of 6N hydrochloric acid are stirred at 95° C. for 1 h. and then cooled in an ice bath. The reaction solution is poured into 30 ml of 25% aqueous ammonia and stirred in an ice bath for 10 min. The crystals are filtered off, washed with 30 ml of ice-cold water and dried in a vacuum. 2.0 g of 4-fluoro-2-(1H-1,2,4-triazol-3-yl)aniline of m.p. 142.5°-144.5° C. are obtained.

reactant | 9-fluoro-1,2,4-triazolo[1,5-c]quinazoline | 2.3 g | FC1=CC=2C=3N(C=NC2C=C1)N=CN3 | C9H5FN4
reactant | ammonia | 30 ml | N | H3N
solvent | hydrochloric acid | 6N, 40 ml | Cl | ClH
product | 4-fluoro-2-(1H-1,2,4-triazol-3-yl)aniline | 2.0 g | FC1=CC(=C(N)C=C1)C1=NNC=N1 | C8H7FN4
